US08283475B2
N-[2-(6-Chloro-4-dimethylaminomethyl-2H-benzotriazol-2-yl)-1-cyano-1-methylethyl]-4-trifluoromethoxybenzamide (compound No 1.080)
To a solution of N-[2-(6-Chloro-4-formyl-2H-benzotriazol-2-yl)-1-cyano-1-methylethyl]-4-trifluoromethoxybenzamide (0.18 g) in methanol (3 mL) was added a 2 molar methanolic solution of dimethylamine (0.24 mL). After one hour stirring at room temperature, decaborane was added (15 mg) and the mixture stirred one more hour before being concentrated under reduced pressure. The residue was purified by chromatography (SiO2, heptane/EA) to afford the title compound as a white solid (100 mg, 52%). Rf=0.2 (3:1 EA/heptane). MS (ES): M/Z [M+H]=481. 1H NMR: (400 MHz, CHLOROFORM-d): 1.81 (s, 3H), 2.31 (s, 6H), 3.75 (d, J=13.5 Hz, 1H), 3.92 (d, J=13.5 Hz, 1H), 5.12 (d, J=13.8 Hz, 1H), 5.52 (d, J=13.7 Hz, 1H), 7.32 (d, J=8.1 Hz, 2H), 7.36 (s, 1H), 7.81 (d, J=1.7 Hz, 1H) and 7.95 (br. d, J=8.7 Hz, 3H). 19F NMR (376 MHz, CHLOROFORM-d): −58.1 (s, 3F).

reactant | N-[2-(6-Chloro-4-formyl-2H-benzotriazol-2-yl)-1-cyano-1-methylethyl]-4-trifluoromethoxybenzamide | 0.18 g | ClC=1C=C(C=2C(=NN(N2)CC(C)(C#N)NC(C2=CC=C(C=C2)OC(F)(F)F)=O)C1)C=O | C19H13ClF3N5O3
reactant | dimethylamine | 0.24 mL | CNC | C2H7N
reactant | decaborane | [B][B][B][B][B][B][B][B][B][B] | B10
solvent | methanol | 3 mL | CO | CH4O
product | N-[2-(6-Chloro-4-dimethylaminomethyl-2H-benzotriazol-2-yl)-1-cyano-1-methylethyl]-4-trifluoromethoxybenzamide | 100 mg, 52% | ClC=1C=C(C=2C(=NN(N2)CC(C)(C#N)NC(C2=CC=C(C=C2)OC(F)(F)F)=O)C1)CN(C)C | C21H20ClF3N6O2
